US08957215B2
Ethyl 2-[6-(4-Methylpiperazin-1-yl)pyridin-3-yl]-1,3-benzothiazole-6-carboxylate
Formaldehyde (37% aq., 0.212 mL, 2.61 mmol) was added to a suspension of ethyl 2-(6-piperazin-1-ylpyridin-3-yl)-1,3-benzothiazole-6-carboxylate trifluoroacetate (0.315 g, 0.65 mmol) in methanol (10 mL). Sodium cyanoborohydride (74 mg, 1.17 mmol) was added and the resulting mixture was stirred at r.t. for 1 h. The r.m. was then kept at −10° C. o.n. The formed solid was collected, washed with cold methanol and dried to give the title compound. The mother liquor was evaporated in vacuo and the residue was partitioned between DCM and sat. sodium hydrogencarbonate. The aqueous layer was extracted twice with DCM, dried (Na2SO4), filtered, and evaporated in vacuo, giving together with the filtrated solid the title compound (0.20 g) as a yellow solid. 1H NMR δ ppm 8.83 (d, 1 H) 8.73 (s, 1 H) 8.17 (dd, 1 H) 8.05 (s, 2 H) 7.01 (d, 1 H) 4.36 (q, 2 H) 3.70 (br. s., 4 H) 3.32 (s, 4 H) 2.29 (s, 3 H) 1.36 (t, 3 H); MS m/z (M+H) 383.

reactant | Formaldehyde | 2.61 mmol, 0.212 mL | C=O | CH2O
reactant | ethyl 2-(6-piperazin-1-ylpyridin-3-yl)-1,3-benzothiazole-6-carboxylate trifluoroacetate | 0.65 mmol, 0.315 g | FC(C(=O)O)(F)F.N1(CCNCC1)C1=CC=C(C=N1)C=1SC2=C(N1)C=CC(=C2)C(=O)OCC
reactant | Sodium cyanoborohydride | 1.17 mmol, 74 mg | C(#N)[BH3-].[Na+]
solvent | methanol | 10 mL | CO | CH4O
product | Ethyl 2-[6-(4-Methylpiperazin-1-yl)pyridin-3-yl]-1,3-benzothiazole-6-carboxylate | CN1CCN(CC1)C1=CC=C(C=N1)C=1SC2=C(N1)C=CC(=C2)C(=O)OCC | C20H22N4O2S
